US08648066B2
A solution of 2-[(dimethylamino)methyl]-7-(methyloxy)quinazolin-4-ol (6.6 g, 28.0 mmol) in a mixture of chloroform (15.0 mL) and phosphorous oxychloride (15.0 mL) was heated to reflux for 90 minutes. After cooling it to room temperature the reaction mixture was concentrated and the residue was partitioned between saturated sodium bicarbonate (100 mL) and ethyl acetate (400 mL) and the mixture was stirred for 30 minutes. The organic layer was separated and washed with saturated sodium bicarbonate (2×100 mL) and brine (200 mL), dried over sodium sulfate, filtered and concentrated. Purification by silica gel column chromatography using 15% methanol containing 0.5% triethylamine in ethyl acetate provided 1-[4-chloro-7-(methyloxy)quinazolin-2-yl]-N,N-dimethylmethanamine (7.0 g, quantitative). MS (EI) for C12H14ClN3O: 252 (MH+).

reactant | 2-[(dimethylamino)methyl]-7-(methyloxy)quinazolin-4-ol | 28.0 mmol, 6.6 g | CN(C)CC1=NC2=CC(=CC=C2C(=N1)O)OC | C12H15N3O2
reactant | chloroform | 15.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | phosphorous oxychloride | 15.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-[4-chloro-7-(methyloxy)quinazolin-2-yl]-N,N-dimethylmethanamine | 7.0 g | ClC1=NC(=NC2=CC(=CC=C12)OC)CN(C)C | C12H14ClN3O
